* C:\Users\evans\Documents\2020 Spring\eelab\project\spice\Draft11.asc
V1 N003 0 PULSE(0 3.3 0 0 0 10m)
V2 N001 0 5
M1 N002 N003 0 0 NMOS
R2 N001 N002 10k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\evans\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 50m 0 1m
.backanno
.end
